US06432949B1
N-[5-(3-cyclohexylpropionamido)-2-methylphenyl]quinoxaline-6-carboxamide
Using an analogous procedure to that described in Example 5, quinoxaline-6-carboxylic acid was reacted with N-(3-amino4-methylphenyl)-3-cyclohexylpropionamide to give the title compound; NMR Spectrum: (DMSOd6) 0.76-0.97 (m, 2H), 1.04-1.24 (m, 3H), 1.40-1.78 (m, 8H), 2.2 (s, 3H), 2.28 (t, 2H), 7.17 (d, 1H), 7.39 (d, 1H), 7.69 (s, 1H), 8.22 (d, 1H), 8.44 (d, 1H), 8.74 (s, 1H), 9.05 (m, 2H), 9.84 (s, 1H), 10.25 (s, 1H); Mass Spectrum: M+H+ 417.

reactant | quinoxaline-6-carboxylic acid | N1=CC=NC2=CC(=CC=C12)C(=O)O | C9H6N2O2
reactant | N-(3-amino4-methylphenyl)-3-cyclohexylpropionamide | NC=1C=C(C=CC1C)NC(CCC1CCCCC1)=O | C16H24N2O
product | N-[5-(3-cyclohexylpropionamido)-2-methylphenyl]quinoxaline-6-carboxamide | C1(CCCCC1)CCC(=O)NC=1C=CC(=C(C1)NC(=O)C=1C=C2N=CC=NC2=CC1)C | C25H28N4O2
